US05552422
1-(4-Methylthiophenyl)-2-phenyl-ethanone
To a cold (0° C.) solution of phenylacetyl chloride (92.8 g, 0.6 mol) in CHCl3 (1.2 L) was added AlCl3 (80 g, 0.6 mol) in portions. Thioanisole (62.1 g, 0.5 mol) was then added dropwise. The resulting mixture was stirred at r.t. for 1.5 h. The mixture was poured into 4 L of ice and extracted with CHCl3. The combined organic extracts were dried over MgSO4, filtered and concentrated. The residue was slurried in 300 mL of 20 % EtOAc/hexane, filtered and washed with hexane to give 78 g of the title compound.

reactant | phenylacetyl chloride | 0.6 mol, 92.8 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | AlCl3 | 0.6 mol, 80 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Thioanisole | 0.5 mol, 62.1 g | C1(=CC=CC=C1)SC | C7H8S
solvent | CHCl3 | 1.2 L | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Methylthiophenyl)-2-phenyl-ethanone | 78 g | CSC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C15H14OS
